US07943669B2
Step B: {4-[3-Cyclopentylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-Cyclopentylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (80 mg; 0.15 mmol) was dissolved in THF (2 mL) and ethanol (4 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 30 min. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 43 mg (57%). HPLC-MS: m/z: 495.8 (M)+; Rt: 1.92 min.

reactant | {4-[3-Cyclopentylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.15 mmol, 80 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1CCCC1)C)=O | C30H37NO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | {4-[3-Cyclopentylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | C1(CCCC1)COC=1C=C(C=C(C1)C#CCN1CCOCC1)SC1=CC(=C(OCC(=O)O)C=C1)C | C28H33NO5S
